US05120729
Preparation of (±)-cis-3-Ethyl-4-fluoromethyl-N-toluenesulfonyl-2-azetidinone
To (±)-cis-3-Ethyl-4-hydroxymethyl-N-toluenesulfonyl-2-azetidinone (3.9 mg) in CH2Cl2 (0.5 ml) was added diethylaminosulfur trifluoride (DAST) (15μl). The mixture was stirred overnight under nitrogen. The mixture was purified by preparative TLC on a silica gel plate (1000μ) and developed with CH2Cl2 to give the titled compound. NMR(CDCl3): δ1.06(3H, t), 1.6-2.0(2H, m), 2.45(3H, s), 3.26(1H, dt), 4.27(1H, dm), 4.65(1H, m), 4.88(1H, m), 7.37(2H, d), 7.88(2H, d)

reactant | (±)-cis-3-Ethyl-4-hydroxymethyl-N-toluenesulfonyl-2-azetidinone | 3.9 mg | C(C)[C@@H]1C(N([C@@H]1CO)S(=O)(=O)C=1C(=CC=CC1)C)=O | C13H17NO4S
reactant | diethylaminosulfur trifluoride | 15μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | CH2Cl2 | 0.5 ml | C(Cl)Cl | CH2Cl2
product | (±)-cis-3-Ethyl-4-fluoromethyl-N-toluenesulfonyl-2-azetidinone | C(C)[C@@H]1C(N([C@@H]1CF)S(=O)(=O)C=1C(=CC=CC1)C)=O | C13H16FNO3S
